US04925879
Crude 1-[1-(4-chlorophenyl)cyclobutyl]-2-methylthioethan-1-one (8.3 g prepared as described above), ammonium acetate (25 g) and sodium cyanoborohydride (2.6 g) were dissolved in methanol (120 ml). The solution was kept at room temperature for 19 days and then poured into water (300 ml) and basified to pH 8. The mixture was extracted with ether and the ethereal solution extracted with 2N hydrochloric acid. The acid solution was basified and extracted with ether. The extracts were dried and evaporated to give an oil which was purified by flash chromatography using ethyl acetate as eluant to give 1-[1-(4-chlorophenyl)cyclobutyl]-2-methylthioethylamine the boiling point of which was not determined.

reactant | 1-[1-(4-chlorophenyl)cyclobutyl]-2-methylthioethan-1-one | 8.3 g | ClC1=CC=C(C=C1)C1(CCC1)C(CSC)=O | C13H15ClOS
reactant | ammonium acetate | 25 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 2.6 g | C(#N)[BH3-].[Na+]
reactant | water | 300 ml | O | H2O
solvent | methanol | 120 ml | CO | CH4O
product | 1-[1-(4-chlorophenyl)cyclobutyl]-2-methylthioethylamine | ClC1=CC=C(C=C1)C1(CCC1)C(CSC)N | C13H18ClNS
